US06680313B2
The procedure of Example 1a) was repeated, except that 201 mg of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate and 424 mg of 7-[2-(4-nitrobenzyloxycarbonyl)aminoethyl]thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds. Thus, 200 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-[2-(4-nitrobenzyloxycarbonyl)aminoethyl]thioimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate was prepared.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate | 201 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | 7-[2-(4-nitrobenzyloxycarbonyl)aminoethyl]thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 424 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCSC=2N=CN3C2SC(=C3)[Sn](CCCC)(CCCC)CCCC)C=C1
product | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-[2-(4-nitrobenzyloxycarbonyl)aminoethyl]thioimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 200 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=CN3C(S2)=C(N=C3)SCCNC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C31H28N6O10S2
